US09162986B2
A 2 M solution of potassium carbonate (2.1 mL) was added to a magnetically stirred mixture of 1-[3-bromo-4-(2-methoxyethoxymethoxy)benzyl]-3-tert-butylurea (1.4 g, 4.1 mmol), prepared as in Reference 11, and 2-(2-methoxyethoxymethoxy)-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzaldehyde (42 mL, 0.1 mM in toluene, 4.2 mmol), prepared as in Reference 15. The mixture was flushed with nitrogen and then tetrakis(triphenylphosphine)palladium(0) (118 mg, 0.1025 mmol) was added. The mixture was refluxed for 7 hours, cooled and then poured into a mixture of ethyl acetate and 5% citric acid. The organic phase was separated and the aqueous phase was extracted twice more with ethyl acetate. The combined organic phase was dried and concentrated by evaporation. Product was purified from the residue by chromatography on silica gel utilizing 100% ethyl acetate to give 1-tert-butyl-3-[3′-formyl-6,2′-bis-(2-methoxyethoxymethoxy)-biphenyl-3-ylmethyl]-urea (1.2 g).

reactant | potassium carbonate | 2.1 mL | C([O-])([O-])=O.[K+].[K+]
reactant | 1-[3-bromo-4-(2-methoxyethoxymethoxy)benzyl]-3-tert-butylurea | 4.1 mmol, 1.4 g | BrC=1C=C(CNC(=O)NC(C)(C)C)C=CC1OCOCCOC | C16H25BrN2O4
reactant | 2-(2-methoxyethoxymethoxy)-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzaldehyde | 4.2 mmol, 0.1 mM, 42 mL | COCCOCOC1=C(C=O)C=CC=C1B1OC(C(O1)(C)C)(C)C | C17H25BO6
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.1025 mmol, 118 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-tert-butyl-3-[3′-formyl-6,2′-bis-(2-methoxyethoxymethoxy)-biphenyl-3-ylmethyl]-urea | 1.2 g | C(C)(C)(C)NC(=O)NCC=1C=C(C(=CC1)OCOCCOC)C1=C(C(=CC=C1)C=O)OCOCCOC | C27H38N2O8
